US07772226B2
(e) 3-(2-Butynyl)-5-methyl-2-(piperazin-1-yl)-3,5-dihydroimidazo[4,5-d]pyridazin-4-one
200 ml of trifluoroacetic acid was added to 200 ml of a dichloromethane solution containing 54.3 g of t-butyl 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate, and the mixture was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure, the residue was dissolved in 500 ml of ethyl acetate. 1 L of 10% aqueous sodium bicarbonate solution was gradually added. Then, 1 L of ethyl acetate and 500 ml of a 5N aqueous sodium hydroxide solution were added to the solution. The organic layer was separated. Then, the aqueous layer was extracted five times with 1 L of dichloromethane. The organic layers were combined together, washed with 500 ml of an aqueous solution of 2N sodium hydroxide, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give 30.5 g of the crystalline title compound.

reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl 4-[1-(2-butynyl)-6-methyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 54.3 g | C(C#CC)N1C(=NC2=C1C(N(N=C2)C)=O)N2CCN(CC2)C(=O)OC(C)(C)C | C19H26N6O3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(2-Butynyl)-5-methyl-2-(piperazin-1-yl)-3,5-dihydroimidazo[4,5-d]pyridazin-4-one | 30.5 g | C(C#CC)N1C(=NC=2C=NN(C(C21)=O)C)N2CCNCC2 | C14H18N6O
